data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1=C[CH:10]=[CH:11]C(CC([C+:20](CCC1)C)O[Sn-](Cl)(Cl)(Cl)Cl)(C)C.Cl>>CC1=C[CH:10]2[CH+:11]C(CC([C:20]2(CCC1)C)O[Sn-](Cl)(Cl)(Cl)Cl)(C)C.Cl 10,11=10,20
[H:20][CH2:21][C:22](=[O:23])C1C(CCC2=C1C=CC=C2)C3CC[C:10](=[C:11]3[O-:12])C(C)C>>[H:20][C:10]1(CCC([C:11]1=[O:12])C2CCC3=C(C2[C:22](=[CH2:21])[O-:23])C=CC=C3)C(C)C 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][C:21]1(CCCC[CH:22]1[Br:23])Br.[NH2-:10]>>[H:20][NH2:10].C1CC[C:21](=[CH:22]C1)Br.[Br-:23] 10=20;22,23=23;20,21=21,22
C[CH+:20]C.CC1=CO[CH:10]=[CH:11]1>>CC1=CO[CH:10]([CH+:11]1)[CH:20](C)C 10,11=10,20
CC(=O)C1=CC2=C(C=C[CH:11]=[CH:10]2)C=C1.O[S+:20](=O)=O>>CC(=O)C1=CC2=C(C=C[CH+:11][CH:10]2[S:20](=O)(=O)O)C=C1 10,11=10,20
[H:20][C:21]1([CH+:22]C=C(O1)C(F)(F)F)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C(O[C:21](=[CH:22]1)[N+](=O)[O-])C(F)(F)F 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C1=CC=C(C=C1)C(C(=[O:10])O)O.CCO>>[H:20][O+:10]=C(C(C1=CC=CC=C1)O)O.OS(=O)(=O)[O-:21].CCO 10=20;20,21=21
CC1(OC2C[N:10]3CCC[CH:20](C3C2O1)[O:21]S(=O)(=O)C)C.[Li+].[Cl-]>>CC1(OC2C[N+:10]34CCC[CH:20]3C4C2O1)C.CS(=O)(=O)[O-:21].[Li+].[Cl-] 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C1=CC(=C(C(=C1)OC)C(=O)C2=C(C=CC=C2C#N)OC)OC)Br.[OH-:10].[Na+].[Br-].BrBr>>[H:20][OH:10].COC1=C(C(=CC=C1)C#N)C(=O)C2=C(C=C(C=C2OC)[C:22](=[CH:21]Br)[O-:23])OC.[Na+].[Br-].BrBr 10=20;22,23=23;20,21=21,22
[H:20][NH3+:21].CCOC(=O)CC(C)(N)[OH:10].CCO.CCOC(=O)C(=CC1=C(ON=C1C)CCC2=CC(=CC=C2)Br)C(=O)C.O>>[H:20][OH+:10]C(C)(CC(=O)OCC)N.[NH3:21].CCO.CCOC(=O)C(=CC1=C(ON=C1C)CCC2=CC(=CC=C2)Br)C(=O)C.O 10=20;20,21=21
C1CO[C:20](N1)([OH:21])[O-:10]>>C1CO[C:20](=[O:10])N1.[OH-:21] 10=20;20,21=21
CC(=O)C1=C[CH:11]=[CH:10]O1.[N+:20](=O)=[O:21]>>CC(=O)C1=C[CH+:11][CH:10](O1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
C1=CC=[N+:21](C=C1)[S:20](=O)(=O)[O-:10]>>C1=CC=[N:21]C=C1.O=[S:20](=O)=[O:10] 10=20;20,21=21
C[C+:20](C)Br.[OH2:10]>>C[C:20](C)([OH2+:10])Br 10=20,
CC([CH2:20][Br:21])O.[OH-:10]>>CC([CH2:20][OH:10])O.[Br-:21] 10=20;20,21=21
C1CC[N:10](C1)[C:20]2(CC3=C(C2)C=CC=C3)[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1CC[N+:10](=[C:20]2CC3=C(C2)C=CC=C3)C1.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH+:21]P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)NCC(=O)OCC.[OH2:10]>>[H:20][OH2+:10].CCOC(=O)CNP(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH:21] 10=20;20,21=21
C1CO[C:20](OC1)([O-:10])[Cl:21]>>C1CO[C:20](=[O:10])OC1.[Cl-:21] 10=20;20,21=21
CC1C(=[O+:11][Si-:10]([OH+]1)(C)(C)C)C2=CC=CC=C2.C1=CC(=CC(=C1)C(=O)[O-])Cl>>CC(C(=[O:11])C1=CC=CC=C1)[OH+][Si:10](C)(C)C.C1=CC(=CC(=C1)C(=O)[O-])Cl 10,11=11
C[C+:20]=O.CC(=O)C1=CC2=C(C=C[CH:11]=[CH:10]2)C=C1>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=C1C=C(C=C2)C(=O)C 10,11=10,20
[H:20][CH:21](C)[CH+:22]OC.C[O:10]CC=C>>[H:20][O+:10](C)CC=C.C[CH:21]=[CH:22]OC 10=20;20,21=21,22
[H:20][Cl:21].C[C:11]1=[CH:10]CCC1(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1CCC([C+:11]1C)(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-:21] 10,11=10,20;20,21=21
CS(=[N+:21]=[C:20]=CC1=C(C=CC=C1)[C:11]2=[CH:10][S:14][CH:13]=[CH:12]2)(=O)C3=CC=CC=C3.C(F)(F)(F)S(=O)(=O)[N-]S(=O)(=O)C(F)(F)F>>CS(=[N:21][C:20]1=CC2=C(C=CC=C2)[C:11]3=[CH:12][CH:13]=[S+:14][CH:10]31)(=O)C4=CC=CC=C4.C(F)(F)(F)S(=O)(=O)[N-]S(=O)(=O)C(F)(F)F 10,11=10,20;20,21=21;12,13=11,12;14=13
CCOC(=O)C[C:20](=[O:21])NNC(=S)[NH-:10].CCO.[Na+]>>CCOC(=O)C[C:20]1([NH:10]C(=S)NN1)[O-:21].CCO.[Na+] 10=20;20,21=21
C[N:21]=[CH2:20].C[Si-](C)(C)(C=[C:11]=[CH2:10])F>>C[N-:21][CH2:20][CH2:10][C+:11]=C[Si-](C)(C)(C)F 10,11=10,20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)C#N)Br.[Br-:10]>>[H:20][Br:10].C1=CC2=C(C=CC(=C2)C#N)[C:21](=[CH:22]1)Br 10=20;20,21=21,22
[H:20][CH:21](C)[C:22](C)(Br)[Br:23].[NH2-:10]>>[H:20][NH2:10].C[CH:21]=[C:22](C)Br.[Br-:23] 10=20;22,23=23;20,21=21,22
C1=CC=C(C=C1)CC(=O)C[C:20](=[O:21])Cl.[OH-:10]>>C1=CC=C(C=C1)CC(=O)C[C:20]([OH:10])([O-:21])Cl 10=20;20,21=21
C1CO[C:20](OC1)([NH2:10])[OH2+:21]>>C1CO[C:20](=[NH2+:10])OC1.[OH2:21] 10=20;20,21=21
[H:20][OH:21].CCCCO[Ti-](OCCCC)(OCCCC)(OCCCC)[O:10]C(CC(=CC(=O)OC)C)C=CC=CI.CCCCO[Si](C)(C)C>>[H:20][O+:10](C(CC(=CC(=O)OC)C)C=CC=CI)[Ti-](OCCCC)(OCCCC)(OCCCC)OCCCC.[OH-:21].CCCCO[Si](C)(C)C 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)S(=O)(=O)O)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=CC(=C2)S(=O)(=O)O)[C:21](=[CH:22]1)S(=O)(=O)O 10=20;20,21=21,22
C1CCC([CH:20](C1)[I:21])[I:10]>>C1CCC2[CH:20](C1)[I+:10]2.[I-:21] 10=20;20,21=21
C[N:10](C)N.COC1=CC=C(C=C1)[CH2:20][Br:21]>>C[N+:10](C)([CH2:20]C1=CC=C(C=C1)OC)N.[Br-:21] 10=20;20,21=21
CC(=CCCC(=C[CH2:20][Br:21])C)C.C[N+](C)(C)[O-:10]>>CC(=CCCC(=C[CH2:20][O:10][N+](C)(C)C)C)C.[Br-:21] 10=20;20,21=21
